US06822090B2
The method in which 5′-O-(dimethoxytrityl)uridine derivatives are condensed with 1,2,4-triazole to give 1-[5′-O-(dimethoxytrityl)-β-D-ribofuranosyl]-4-(1,2,4-tri azol-1-yl)pyrimidin-2-(1H) -one derivatives, which are then reacted with an amine in dioxane solvent to yield 5′-O-(dimethoxytrityl)cytidine derivatives (Journal of Organic Chemistry, 47, 3623 (1982)).

reactant | 5′-O-(dimethoxytrityl)uridine | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C=C2)O)O)C=CC1)OC | C30H30N2O8
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 1-[5′-O-(dimethoxytrityl)-β-D-ribofuranosyl]-4-(1,2,4-tri azol-1-yl)pyrimidin-2-(1H) -one | COC=1C(=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(N=C(C=C2)N2N=CN=C2)=O)O)O)C=CC1)OC | C32H31N5O7
